US08258130B2
A solution of 2-(3-fluorophenyl)pyrimidine-5-carboxylic acid-(5-fluoroindol-1-yl)amide (0.35 g,) in dry CH3CN (20 mL) is treated with chlorosulfonic acid (0.5 mL) and stirred at rt for 24 h. The reaction mixture is poured onto ice/water (150 mL) and extracted with EtOAc. The organic layer is washed with water, brine and dried (MgSO4), filtered and concentrated in vacuo to afford 5-fluoro-1-{[2-(3-fluorophenyl)pyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonyl chloride (0.43 g, 95%). MS: 449 (M+H).

reactant | 2-(3-fluorophenyl)pyrimidine-5-carboxylic acid-(5-fluoroindol-1-yl)amide | 0.35 g | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C19H12F2N4O
reactant | chlorosulfonic acid | 0.5 mL | ClS(=O)(=O)O | ClHO3S
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 5-fluoro-1-{[2-(3-fluorophenyl)pyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonyl chloride | 0.43 g, 95% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F)S(=O)(=O)Cl | C19H11ClF2N4O3S
